Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right neck swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ ___ gentleman w/ PMH 
of
recent hemorrhagic stroke and hypertension who presents for
evaluation of right neck mass.

The patient was in his usual state of health until around ___
when he was seen by his son and daughter, who thought he looked
unwell. He was taken to ___ where he was found
to have a hemorrhagic stroke and admitted. He had residual
dysphagia related to his CVA and thus required feeding tube
placement prior to discharge. The patient was discharged from 
the
hospital to rehab (___ in ___ approximately one week
ago. Since then, the patient was doing well; however, his wife
noticed a right-sided neck mass that they don't believe was
present prior to his transfer to rehab. The patient also reports
a 20 lb weight loss over the past 2 weeks. Otherwise, the 
patient
denies any fevers, chills, night sweats, chest pain, shortness 
of
breath, coughing/wheezing, abdominal pain, nausea/vomiting,
diarrhea/constipation, or dysuria. As a result of his neck mass,
the patient was referred from his rehab to ___ ER for further
evaluation.

In the ER, the patient's initial vitals were T 97.3F, HR 103, BP
109/62, RR 19, O2 sat 100% RA. Initial labs were notable for WBC
9.8 with neutrophil predominance, Hgb 12.8, platelets 472, 
normal
chemistry panel, CRP 15.8. CXR did not demonstrate any acute
cardiopulmonary process. Ultrasound of the neck demonstrated 2.9
x 2.2 x 3.1 cm heterogenous solid mass with internal vascularity
near the angle of the mandible on the right which may represent
lymphadenopathy, possible necrotic or neoplastic soft tissue
mass. Patient was given atorvastatin 40mg x1 and admitted to
Medicine service for further management. 

Upon arrival to the floor, patient's vitals were T 98.0F, BP
137/67, HR 74, RR 19, O2 sat 95% RA. In addition to the above
history, the patient reports that he emigrated to the ___ from
___ approximately ___ years ago. He has not returned to
___ in the past ___ years. He denies any other travel to other
countries or other states in the past ___ years. He denies IV
drug use, tobacco/EtOH, or animal exposures. The patient also
reports that he has not been sexually active in years.

ROS as above, otherwise reviewed in detail and negative

 
Past Medical History:
Recent hemorrhagic CVA, admitted to ___ ___
Hypertension
 
Social History:
___
Family History:
No family history of cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 98.0F, BP 137/67, HR 74, RR 19, O2 sat 95% RA 
General: Alert, oriented, no acute distress  
HEENT: Poor dentition. Mobile, firm 2-3 cm mass appreciated 
below
the mandible. No overlying redness or warmth. Mildly tender to
palpation.
CV: normal S1, S2 without murmurs, rubs, or gallops  
Lungs: clear to auscultation bilaterally 
Abdomen: G tube in place; mild tenderness to palpation around 
the
g tube site, but otherwise soft, non-distended 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.  

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 426)
    Temp: 98.4 (Tm 99.0), BP: 135/60 (96-135/59-78), HR: 61
(61-86), RR: 18 (___), O2 sat: 100% (96-100), O2 delivery: Ra 
 
General: Alert, oriented, no acute distress  
HEENT: Poor dentition. Mobile, firm 2X3 cm submandibular mass
appreciated below the mandible. No overlying redness or warmth.
Minimally tender to palpation. Improved from prior. 
CV: normal S1, S2 without murmurs, rubs, or gallops  
Lungs: clear to auscultation bilaterally 
Abdomen: G tube in place; mild tenderness to palpation around 
the
G tube site, but otherwise soft, non-distended 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:30PM BLOOD WBC-9.8 RBC-4.48* Hgb-12.8* Hct-41.9 
MCV-94 MCH-28.6 MCHC-30.5* RDW-12.6 RDWSD-43.2 Plt ___
___ 04:30PM BLOOD Neuts-79.5* Lymphs-11.7* Monos-7.3 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-7.78* AbsLymp-1.15* 
AbsMono-0.71 AbsEos-0.07 AbsBaso-0.06
___ 04:30PM BLOOD Glucose-93 UreaN-25* Creat-0.8 Na-140 
K-5.1 Cl-101 HCO3-27 AnGap-12
___ 04:30PM BLOOD ALT-54* AST-40 AlkPhos-91 TotBili-0.3
___ 07:09AM BLOOD Calcium-9.7 Phos-4.7* Mg-2.4
___ 04:30PM BLOOD CRP-15.8*

DISCHARGE LABS:
===============
___ 07:09AM BLOOD WBC-8.7 RBC-4.51* Hgb-13.1* Hct-42.8 
MCV-95 MCH-29.0 MCHC-30.6* RDW-12.5 RDWSD-43.2 Plt ___
___ 07:09AM BLOOD Glucose-117* UreaN-21* Creat-0.8 Na-145 
K-4.4 Cl-101 HCO3-30 AnGap-14

STUDIES:
========
US NECK ___:
IMPRESSION:  
2.9 x 2.2 x 3.1 cm  heterogeneous, oval solid mass with internal 
vascularity near the angle of the mandible on the right, which 
may represent lymphadenopathy, possibly necrotic, or neoplastic 
soft tissue mass.  Recommend direct sampling of this mass for 
further assessment. 

CT NECK W/ CONTRAST ___:
IMPRESSION:   
Enlarged heterogeneous right submandibular gland with adjacent 
fat stranding consistent with acute sialadenitis.  No 
obstructing calculus seen. 

 
Brief Hospital Course:
___ ___ speaking man with a history of recent 
hemorrhagic stroke now on tube feeds as well as hypertension who 
presented for evaluation of an acute right neck mass.

ACUTE PROBLEMS:
===============
# Bacterial sialidenitis
The patient noted an increasing right-sided neck mass over the 
days prior to admission since discharge from ___ 
history for hemorrhagic stroke. CT was consistent with acute 
sialadenitis. No obstructing calculus was seen. He was started 
on p.o. Augmentin and given warm compresses with significant 
improvement over several days. He will continue Augmentin 
through ___. 

# Weight loss
# Malnutrition 
Patient reports that he has lost approximately 20 pounds over 
the past 2 weeks in the setting of his dysphasia related to his 
recent CVA. He is maintained on tube feeds and given a 
multivitamin, folate and thiamine.

CHRONIC ISSUES:
===============
# Hemorrhagic CVA
Patient had a hemorrhagic stroke around ___ and was
treated at ___. Continues to have residual
dysphagia requiring G tubefeeds. 

# Hypertension
Continued his home lisinopril. 

TRANSITIONAL ISSUES:
====================
[ ] Monitor for improvement in right-sided mass/pain on 
antibiotics. 
[ ] He will continue Augmentin through ___. 
[ ] He will continue with tube feeds and have further speech and 
swallow evaluation and work as an outpatient.

CODE: Full
CONTACT: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Acetaminophen (Liquid) 325 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*18 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
5.  Acetaminophen (Liquid) 325 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute bacterial sialidenitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being involved in your care.

You were admitted to the hospital with a right-sided neck mass.  
This was found to be from infection from a blocked saliva duct.  


You were started on antibiotics and given warm compresses.

This helped reduce the size and pain of the mass.

Please continue your medications including her antibiotics 
attend all your follow-up appointments as noted below.

We wish you the best!
Your ___ Team
 
Followup Instructions:
___